US07402608B2
To 3-[(4-Methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (58 mg, 0.132 mmol) in dichloromethane (1.3 ml) was added pyridine (64 ul, 0.789 mmol), followed by acetic anhydride (50 ul, 0.526 mmol) and a catalytic amount of DMAP. The resulting solution was stirred for 18 hours at room temperature and then quenched with a saturated solution of NaHCO3 (5 ml). The aqueous phase was separated and washed with ethyl acetate (2×5 ml). The combined organic layers were dried (Na2SO4), filtered and concentrated. The residue was then purified by preparative chromatography (100/90/16/1 CH2Cl2/CHCl3/MeOH/Et3N) to obtain 50 mg (78%) of 3-[(1-Acetyl-piperidin-4-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester.

reactant | 3-[(4-Methyl-cyclohexanecarbonyl)-piperidin-4-yl-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.132 mmol, 58 mg | COC(=O)C=1SC(=CC1N(C1CCNCC1)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C25H32N2O3S
reactant | pyridine | 0.789 mmol, 64 ul | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.526 mmol, 50 ul | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 1.3 ml | ClCCl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-[(1-Acetyl-piperidin-4-yl)-(4-methyl-cyclohexanecarbonyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 50 mg, 78% | COC(=O)C=1SC(=CC1N(C(=O)C1CCC(CC1)C)C1CCN(CC1)C(C)=O)C1=CC=CC=C1 | C27H34N2O4S
